US08124629B2
To a solution of crude 2-(4-fluoro-benzylidene)-3-methyl-succinic acid 1-methyl ester (approximately 49 g, 0.196 mol) in acetic anhydride (490 mL) was added sodium acetate (32.15 g, 0.392 mol) in one portion. The reaction mixture was stirred at 150° C. for 3 hours. After this time, the reaction mixture was cooled to room temperature, then stirred overnight. Acetic anhydride was removed in vacuo, providing a viscous brown oil. This crude product was dissolved in ethyl acetate. The resulting solution was washed with a saturated, aqueous ammonium chloride solution. The organic phase was dried over Na2SO4, filtered, and concentrated. Flash chromatography (Analogix SuperFlash™ 10% ethyl acetate in hexane) gave 18.4 g (34%) of 4-acetoxy-6-fluoro-3-methyl-naphthalene-2-carboxylic acid methyl ester as a yellow oil.

reactant | 2-(4-fluoro-benzylidene)-3-methyl-succinic acid 1-methyl ester | 0.196 mol, approximately 49 g | COC(C(C(C(=O)O)C)=CC1=CC=C(C=C1)F)=O | C13H13FO4
reactant | sodium acetate | 0.392 mol, 32.15 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 490 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-acetoxy-6-fluoro-3-methyl-naphthalene-2-carboxylic acid methyl ester | 18.4 g, 34% | COC(=O)C1=CC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C15H13FO4
